### PR TITLE
feat(Topology/Order): topological basis of scott topology on Complete…

### PR DESCRIPTION
**Pull request by edwin1729**
…PartialOrder

---
[Zulip discussion](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.3E.20Algebraic.20complete.20partial.20order.20and.20domain.20theory/with/536359313) for this PR.
(2/5) PRs in domain theory, proving that scott topologies over Algebraic DCPOs (`CompletePartialOrder`) are sober.
The main reference is [Renata, Duality in Domain Theory](https://alyata.github.io/documents/duality_domain_theory.pdf). But the statements can also be found in the canonical text [Abramsky and Jung](https://www.cs.ox.ac.uk/people/samson.abramsky/handbook.pdf)
 This first PR proves two prerequisites, namely:
- the specialization order induced by the scott topology corresponds to the existing order of the DCPO. Prop 3.1.5 in [Duality in Domain Theory](https://alyata.github.io/documents/duality_domain_theory.pdf) and Prop 2.3.2(1) in [Abramsky and Jung](https://www.cs.ox.ac.uk/people/samson.abramsky/handbook.pdf)
- the upward closures of compact elements of the DCPO form a topological basis for the Scott Topology. Prop 3.5.2 in [Duality in Domain Theory](https://alyata.github.io/documents/duality_domain_theory.pdf) and Prop 2.3.6(2) in [Abramsky and Jung](https://www.cs.ox.ac.uk/people/samson.abramsky/handbook.pdf)

- [x] depends on: #33061 

**The next PR is here:** #31670 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 1]
```diff
@@ -0,0 +1,291 @@
...
+## Main Statements
+- `specialization_iff_ge`: The original order and the specialization order induced by the Scott
+topology, correspond. Prop 3.5.2 in [reneta2025]. Prop 2.3.2(1) in [abramsky_gabbay_maibaum_1994]
+- `isTopologicalBasis_of_Ici_compact`: The upward closures of compact elements form a topological
+basis under the Scott Topology. Prop 3.5.2 in [reneta2025]
+- `open_eq_of_open_basis'`: Explicit construction an Open set from the basis mentioned above.
+Prop 2.3.6(2) [abramsky_gabbay_maibaum_1994]
+
+## Notation
+idfsdlfjdsf
```
Comment (plp127) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]: What is `idfsdlfjdsf`?

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 2]
```diff
@@ -0,0 +1,291 @@
...
+## Tags
+
+Scott topology, Algebraic DCPO, Stone Duality
+-/
+
+/-- notation for upward closure (↑ was taken) -/
+notation x:80 "ᵘ" => Set.Ici x
+
+/-- approximants: read as x is way smaller than y -/
+def approx {α : Type*} [CompletePartialOrder α] (x : α) (y : α) :=
```
Comment (plp127) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]: According to the [naming convention](https://leanprover-community.github.io/contribute/naming.html), this should be `Approx`.

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 3]
```diff
@@ -0,0 +1,291 @@
...
+  ∀ (d : Set α), DirectedOn (· ≤ ·) d → y ≤ sSup d → ∃ a ∈ d, x ≤ a
+
+-- A different notion of compact from what we want is defined here
+-- import Mathlib.Topology.Compactness.Compact
+-- compactness (in the sense we want) is only defined for CompleteLattice in the below file
+-- import Mathlib.Order.CompactlyGenerated.Basic
+
+/-- x approximates itself. Compactness is a key property and abstracted by the
+`DirSupInacc` (inacessibility of directed joins property) -/
+def compact {α : Type*} [CompletePartialOrder α] (x : α) := approx x x
```
Comment (plp127) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]: According to the [naming convention](https://leanprover-community.github.io/contribute/naming.html), this should be `Compact`. But that name is already taken, so maybe this should be namespaced?

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 4]
```diff
@@ -0,0 +1,291 @@
...
+
+end CompletePartialOrder
+
+section AlgebraicDCPO
+variable {D : Type*} [TopologicalSpace D] [AlgebraicDCPO D] [IsScott D {d | DirectedOn (· ≤ ·) d}]
+
+lemma h_nhds (x : D) (u : Set D) (x_in_u : x ∈ u) (hu : IsOpen u)
+  : ∃ v ∈ Ici '' 𝕂 D, x ∈ v ∧ v ⊆ u := by
+
+    rw [@isOpen_iff_isUpperSet_and_dirSupInaccOn D {d | DirectedOn (· ≤ ·) d }] at hu
```
Comment (plp127) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Statement should be indented four lines, and proof should be indented two lines
```suggestion
lemma h_nhds (x : D) (u : Set D) (x_in_u : x ∈ u) (hu : IsOpen u) :
    ∃ v ∈ Ici '' 𝕂 D, x ∈ v ∧ v ⊆ u := by
  rw [@isOpen_iff_isUpperSet_and_dirSupInaccOn D {d | DirectedOn (· ≤ ·) d }] at hu
```

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 5]
```diff
@@ -0,0 +1,291 @@
...
+    intro h_specialize
+    -- Take the contrapose of x being in an open implying y must also be in it
+    have h_specialize := not_imp_not.2 <| h_specialize u hu
+    -- we know y ∉ u as y ≤ y. And from specialization relation on y we deduce that x ∉ u
+    simp only [mem_setOf_eq, le_refl, not_true_eq_false, not_false_eq_true, not_not, forall_const,
+      u] at h_specialize
+    -- in other words x ≤ y as required
+    exact h_specialize
+
+lemma h_open {u : Set α} (hu : u ∈ Ici '' 𝕂 α) : IsOpen u := by
```
Comment (plp127) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Can you give some of these lemmas a more descriptive name (or make them private)?

**Review by plp127 — CHANGES_REQUESTED** [review]

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 1 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Typo deleted now

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 2 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Done

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 3 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Done

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 4 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Done [here](https://github.com/leanprover-community/mathlib4/pull/31662/commits/b46a3f52d5694a64f788bcdbf4e64561b9ba0c5f#diff-52090cf41cca493bd173830827706290c06d11745478fc53e3ae2d4daf6fbe94L187-R189)

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 5 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: `h_open` -> `mem_Ici_Compact_of_mem_Open`
`h_nhds` -> `isTopologicalBasis_of_Ici_Compact`

Also note that `Ici_Compact` is later name simply as `basis` after the proof of  `isTopologicalBasis_of_Ici_Compact` (since that is exactly what we prove). Specifically I use `basis` in `open_eq_open_of_basis` and `open_eq_open_of_basis'`. (They are strengthening of the main `isTopologicalBasis_of_Ici_Compact` which provide an explicit construction for any set from the topological basis).

Suggestions on usage of the word `basis` vs `Ici_Compact` are welcome

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 6]
```diff
@@ -0,0 +1,292 @@
...
+
+namespace Topology
+namespace IsScott
+open Topology.IsScott TopologicalSpace Set Topology CompletePartialOrder
+section CompletePartialOrder
+
+variable {α : Type*} [TopologicalSpace α] [CompletePartialOrder α]
+  [IsScott α {d | DirectedOn (· ≤ ·) d}]
+
+lemma mem_iff_upSet_subset {e : α} {u : Opens α} : e ∈ u ↔ eᵘ ⊆ u := by
```
Comment (plp127) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]: There is no `upSet` in here, this should be something like `Opens.mem_iff_Ici_subset`. Or even better, change the statement to require `{s : Set α} (hs : IsUpperSet s)` instead of `{u : Opens α}`, and then you can use `Topology.IsScott.isUpperSet_of_isOpen` to show that your open sets are upper.

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 7]
```diff
@@ -0,0 +1,292 @@
...
+    exact h <| mem_Ici.2 (le_refl e)
+
+/-- The order from `CompletePartialOrder` and the specialization order induced by the Scott
+topology, correspond. Unfortunately Mathlib's specialization order `⤳` is opposite to `≤`
+Prop 3.5.2 in [reneta2025]. Prop 2.3.2(1) in [abramsky_gabbay_maibaum_1994] -/
+lemma specialization_iff_ge {x y : α} : x ≤ y ↔ y ⤳ x := by
+  rw [specializes_iff_forall_open]
+  constructor
+  · intro x_le_y u hu x_in_u
+    apply (@isUpperSet_of_isOpen α {d | DirectedOn (· ≤ ·) d }) at hu
```
Comment (plp127) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]: It looks to me like `isUpperSet_of_isOpen` is a bad lemma, since the `D` is always impossible to infer.

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 8]
```diff
@@ -0,0 +1,292 @@
...
+
+    choose a a_in_d ha' using yCompact d hd hy
+    have a_in_u : a ∈ u := by subst yUpper hx; exact ha'
+    use a
+    constructor
+    · exact a_in_d
+    · exact a_in_u
+
+/-- The upwards closure of a compact point which we know is open -/
+def open_of_Ici_Compact (c : {c: α // Compact c}) : Opens α :=
```
Comment (plp127) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]: According to the naming convention this should be something like `opensOfCompact` or `Opens.IciOfCompact`.

Also, usually it's better to take in arguments in curried form, so you would have `(c : α) (hc : Compact c)` instead of `(c : { c : α // Compact c })`.

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 9]
```diff
@@ -0,0 +1,292 @@
...
+  · constructor
+    · apply hf
+    · intro y hy
+      simp only [mem_Ici, f'] at hy
+      apply upper hy
+      simp_all only
+
+/-- The upward closures of compact elements form a topological
+basis under the Scott Topology. Prop 3.5.2 in [reneta2025] -/
+theorem isTopologicalBasis_of_Ici_Compact : IsTopologicalBasis (Ici '' 𝕂 D) := by
```
Comment (plp127) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]: According to the naming convention this should be something like `isTopologicalBasis_Ici_image_compactSet` or maybe `isTopologicalBasis_image_Ici_compactSet`.

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 10]
```diff
@@ -0,0 +1,292 @@
...
+  · rintro ⟨c, ⟨hc, hc'⟩, e_in_c'⟩
+    apply hc'
+    simp_all only
+
+/-- See `open_eq_open_of_basis`
+    This is the stronger version of the lemma using `Opens` instead of `Set`s.
+    The weaker version is still useful as it is easier to use when sufficient.
+    I don't reuse the previous result to prove this, since the proof turns out just as long -/
+lemma open_eq_open_of_basis' (u : Opens D) :
+  u = sSup ({ o | ∃ (c: D) (hc: c ∈ 𝕂 D), c ∈ u ∧ (o = ⟨c,hc⟩ᵘᵒ) }) := by
```
Comment (plp127) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Indent the statement four lines
```suggestion
    u = sSup ({ o | ∃ (c : D) (hc : c ∈ 𝕂 D), c ∈ u ∧ (o = ⟨c, hc⟩ᵘᵒ) }) := by
```
also I think this might have a better way to write it with `iSup` instead (don't need all those `∃`).

**Review by plp127 — CHANGES_REQUESTED** [review]

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 7 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: This lemma is not introduced by me, and I'm not sure how to get better inference

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 8 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: name change addressed [here](https://github.com/leanprover-community/mathlib4/pull/31662/commits/b509aaf6792747bb9948f52f8370960044f2b02b)

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 9 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: addressed [here](https://github.com/leanprover-community/mathlib4/pull/31662/commits/07acadd65656b16a2296574f5a5d48ff321756ac#diff-52090cf41cca493bd173830827706290c06d11745478fc53e3ae2d4daf6fbe94L232)

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 10 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: indentation addressed [here](https://github.com/leanprover-community/mathlib4/pull/31662/commits/07acadd65656b16a2296574f5a5d48ff321756ac#diff-52090cf41cca493bd173830827706290c06d11745478fc53e3ae2d4daf6fbe94L265)

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 6 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Renamed to `Opens.mem_iff_Ici_subset`

I tried to change it use `IsUpperSet` instead of `Opens`, but I think this causes another lemma (`isUpperSet_of_isOpen`) needing to be used at the call site around `Opens.mem_iff_Ici_subset`. This is of course not usually a problem but the type class inference does not work, so I need to explicitly provide the Scott topology to `isUpperSet_of_isOpen`, so I thought I might as well just have this done within `Opens.mem_iff_Ici_subset`.

I have made `Opens.mem_iff_Ici_subset` private.
All this is done in [this commit](https://github.com/leanprover-community/mathlib4/pull/31662/commits/196d8a2a9a16cdf0a9ec81fdc06a00ff69ee1389)

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 8 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: The uncurried form was for the benefit of the `ᵘᵒ` notation. Would this be preferred:
```
/-- The upwards closure of a compact point which we know is open -/
def Opens.ofCompact (c : α) (hc : Compact c) : Opens α :=
  ⟨cᵘ, isOpen_of_basis <| Set.mem_image_of_mem Ici hc⟩
/-- The upwards closure of a compact point which we know is open.
ᵘᵒ stand for upward open -/
notation "⟨" c:80 ", " hc:80 "⟩ᵘᵒ"  => Opens.ofCompact c hc
```
I thought the space after comma would be fragile thing on usage of this notation in this form. However the notation still works with 0 or multiple spaces.

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 10 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Regarding usage of `iSup` i have this version, which also looks sort of bad. 
```
lemma open_eq_open_of_basis' (u : Opens D) :
    u = iSup (fun (c : {c : D // Compact c ∧ c ∈ u}) ↦  ⟨c.1, c.2.1⟩ᵘᵒ ) := by . . .
```
My problem is `c.2.1` caused by the subtype. Not sure if you have any suggestions here.

It's considerable to work to make this change for both this proof and usages of the lemma in the next PR, so I want to confirm the right form of the lemma first.

Comment (plp127) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Oh, did you not know about the notation? You can write it as `⨆ (c : D) (hc : c ∈ 𝕂 D) (hu : c ∈ u), ⟨c, hc⟩ᵘᵒ`.

Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Ah, I didn't know. I've made the changes to `iSup` now

**Comment by edwin1729** [comment]
@plp127 I didn't realize CI was failing. This is ready for review again now.

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 7 above)
Comment (plp127) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Yes, I think what should happen if you should change the argument v to be explicit at the place this lemma is defined.

Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: The directed set argument to the scott topology lemma was made explicit [here](https://github.com/leanprover-community/mathlib4/pull/31662/commits/a03d4b5ab5982b15b85d113e243a11aadb3a7bcd)

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 11]
```diff
@@ -0,0 +1,284 @@
...
+/-!
+# Scott Complete Partial Order
+
+Properties of Scott topologies over (Directed) `CompletePartialOrder`, and Algberaic DCPOs.
+
+## Main Definitions
+- `Compact` - The element x is compact if for any directed subset A ⊆ D, whenever `x ≤ sSup A`,
+there is some a ∈ A s.t. x ≤ a already.
+- `AlgebraicDCPO` - an extension of `CompletePartialOrder` which is additionally "algebraic".
+Algebraicity has a correspondence with axioms of a Scott topology
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]:
```suggestion
- `Compact`: The element x is compact if for any directed subset A ⊆ D, whenever `x ≤ sSup A`,
  there is some a ∈ A s.t. x ≤ a already.
- `AlgebraicDCPO`: an extension of `CompletePartialOrder` which is additionally "algebraic".
  Algebraicity has a correspondence with axioms of a Scott topology.
```

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 12]
```diff
@@ -0,0 +1,284 @@
...
+module
+
+public import Mathlib.Order.CompletePartialOrder
+public import Mathlib.Topology.Order.ScottTopology
+public import Mathlib.Topology.Sets.Opens
+
+/-!
+# Scott Complete Partial Order
+
+Properties of Scott topologies over (Directed) `CompletePartialOrder`, and Algberaic DCPOs.
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]:
```suggestion
Properties of Scott topologies over (Directed) `CompletePartialOrder`, and Algebraic DCPOs.
```

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 11 above)
Comment (b-mehta) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Can you be more specific about what "has a correspondence" means here?

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 13]
```diff
@@ -0,0 +1,284 @@
...
+- `AlgebraicDCPO` - an extension of `CompletePartialOrder` which is additionally "algebraic".
+Algebraicity has a correspondence with axioms of a Scott topology
+
+## Main Statements
+- `specialization_iff_ge`: The original order and the specialization order induced by the Scott
+topology, correspond. Prop 3.5.2 in [reneta2025]. Prop 2.3.2(1) in [abramsky_gabbay_maibaum_1994]
+- `isTopologicalBasis_of_Ici_compact`: The upward closures of compact elements form a topological
+basis under the Scott Topology. Prop 3.5.2 in [reneta2025]
+- `open_eq_of_open_basis'`: Explicit construction an Open set from the basis mentioned above.
+Prop 2.3.6(2) [abramsky_gabbay_maibaum_1994]
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]:
```suggestion
- `specialization_iff_ge`: The original order and the specialization order induced by the Scott
  topology, correspond. Prop 3.5.2 in [reneta2025]. Prop 2.3.2(1) in [abramsky_gabbay_maibaum_1994]
- `isTopologicalBasis_of_Ici_compact`: The upward closures of compact elements form a topological
  basis under the Scott Topology. Prop 3.5.2 in [reneta2025]
- `open_eq_of_open_basis'`: Explicit construction an Open set from the basis mentioned above.
  Prop 2.3.6(2) [abramsky_gabbay_maibaum_1994]
```
and similar below

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 14]
```diff
@@ -0,0 +1,284 @@
...
+Scott topology, Algebraic DCPO, Stone Duality
+-/
+
+@[expose] public section
+
+/-- notation for upward closure (↑ was taken) -/
+notation x:arg "ᵘ" => Set.Ici x
+namespace CompletePartialOrder
+/-- approximants: read as x is way smaller than y -/
+def Approx {α : Type*} [CompletePartialOrder α] (x : α) (y : α) :=
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]:
```suggestion
def Approx {α : Type*} [CompletePartialOrder α] (x : α) (y : α) : Prop :=
```

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 15]
```diff
@@ -0,0 +1,284 @@
...
+/-- notation for compactSet -/
+notation "𝕂" α:arg => compactSet α
+
+/-- Compact points in the `Iic` -/
+def compactLowerSet {α : Type*} [CompletePartialOrder α] (x : α) := Set.Iic x ∩ 𝕂 α
+
+/-- Encodes notion of observable properties in programs (points are program semantics) -/
+class AlgebraicDCPO (α : Type*) extends CompletePartialOrder α where
+  algebraic : ∀ x : α, (compactLowerSet x).Nonempty ∧ DirectedOn (· ≤ ·) (compactLowerSet x) ∧
+  x = sSup (compactLowerSet x)
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]:
```suggestion
    x = sSup (compactLowerSet x)
```

**Review by b-mehta — COMMENTED** [review]
Here are some preliminary comments; we discussed more in person.

**Comment by edwin1729** [comment]
- [ ] depends on: #33061 

The above PR has been introduced to generalise the definition of `Compact` (`IsCompactElement` in Mathlib),
to avoid redefining this notion here. As discussed with @b-mehta

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 16]
```diff
@@ -0,0 +1,295 @@
...
+
+Scott topology, Algebraic DCPO, Stone Duality
+-/
+
+@[expose] public section
+
+namespace CompletePartialOrder
+variable {α : Type*} [CompletePartialOrder α]
+
+/-- An element `k` is compact if and only if any directed set with `sSup` above
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]:
```suggestion
/-- An element `k` is compact in a complete partial order if and only if any directed set with `sSup` above
```

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 17]
```diff
@@ -0,0 +1,295 @@
...
+  constructor
+  · intro hk s hs hs' h_le
+    exact hk s (sSup s) hs hs' (lubOfDirected s hs') h_le
+  · intro h s u hs hs' hu h_le
+    have u_eq_sSup: u = sSup s := IsLUB.unique hu (lubOfDirected s hs')
+    rw [u_eq_sSup] at h_le
+    exact h s hs hs' h_le
+
+/-- Set of compact points -/
+def CompactSet (α : Type*) [CompletePartialOrder α] := {x : α | IsCompactElement x}
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Are you sure you need this as a definition, and you can't inline it later?

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 18]
```diff
@@ -0,0 +1,295 @@
...
+
+/-- Compact points in the `Iic` -/
+def CompactLowerSet (x : α) := Set.Iic x ∩ CompactSet α
+
+/-- Encodes notion of observable properties in programs (points are program semantics) -/
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]:
```suggestion
/-- 
An algebraic directed complete partial order is a complete partial order with bottom such that ...
This encodes the notion of observable properties in programs, where points are program semantics. -/
```

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 19]
```diff
@@ -0,0 +1,295 @@
...
+namespace Topology
+namespace IsScott
+open Topology.IsScott TopologicalSpace Set Topology CompletePartialOrder
+section CompletePartialOrder
+
+variable {α : Type*} [TopologicalSpace α] [CompletePartialOrder α]
+  [IsScott α {d | DirectedOn (· ≤ ·) d}]
+
+/-- The order from `CompletePartialOrder` and the specialization order induced by the Scott
+topology, correspond. Unfortunately Mathlib's specialization order `⤳` is opposite to `≤`
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]:
```suggestion
topology, correspond. Unfortunately Mathlib's specialization order `⤳` is opposite to `≤`.
```

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 20]
```diff
@@ -0,0 +1,295 @@
...
+    intro h_specialize
+    -- Take the contrapose of x being in an open implying y must also be in it
+    have h_specialize := not_imp_not.2 <| h_specialize u hu
+    -- we know y ∉ u as y ≤ y. And from specialization relation on y we deduce that x ∉ u
+    simp only [mem_setOf_eq, le_refl, not_true_eq_false, not_false_eq_true, not_not, forall_const,
+      u] at h_specialize
+    -- in other words x ≤ y as required
+    exact h_specialize
+
+/-- Anticipating the construction of basis proved in `isTopologicalBasis_Ici_image_compactSet`
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Remember that docstrings are what people see when hovering over the lemma name in other files; could you be more descriptive about what this lemma is actually doing?

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 21]
```diff
@@ -0,0 +1,295 @@
...
+  property of Scott topologies, which can be seen in some of the proofs below.
+- `Sober`: An alternative equiavlent definition of a Sober topological space as one where
+  the unit map of the adjunction to Locales, `adjunctionTopToLocalePT`, is a homeomorphism.
+
+## Main Statements
+- `specialization_iff_ge`: The original order and the specialization order induced by the Scott
+  topology, correspond. Prop 3.5.2 in [reneta2024]. Prop 2.3.2(1) in [abramsky_gabbay_maibaum_1994]
+- `isTopologicalBasis_of_Ici_compact`: The upward closures of compact elements form a topological
+  basis under the Scott Topology. Prop 3.5.2 in [reneta2024]
+- `open_eq_of_open_basis'`: Explicit construction an Open set from the basis mentioned above.
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]: It looks like this lemma isn't in the file any more?

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 22]
```diff
@@ -0,0 +1,295 @@
...
+  · -- If a point `x` is in an open set `u`, we can find it in a set in the basis (`Ici c`)
+    intro x u x_in_u hu
+    choose c hc x_in_c' hc' using exists_basis_mem_basis x u x_in_u hu
+    use Ici c
+    use ⟨c, hc, rfl⟩
+
+/-- Any open set, `u`, can be constructed as a union of sets from the basis.
+    The basis consists of the upward closures of those compact elements in `u`
+    This is the weaker version of the lemma using `Set`s instead of `Opens`. -/
+lemma open_eq_open_of_basis (u : Set D) (hu : IsOpen u) :
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Can you prove this from [TopologicalSpace.IsTopologicalBasis.isOpen_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Bases.html#TopologicalSpace.IsTopologicalBasis.isOpen_iff) instead? Alternatively, perhaps this isn't necessary, since it's the combination of your IsTopologicalBasis proof and this other mathlib lemma

**Review by b-mehta — COMMENTED** [review]
I've left a few comments. 
In general, public definitions in mathlib are somewhat expensive, so ensure that you only make definitions you actually need. 
Also, I think lots of the docstrings could be improved for mathlib.

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 17 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: It only gets used in the definition of `AlgebraicDCPO` but it gets used many times there so naming it improves readability. What exactly are public definitions (which are expensive)? Anything using the def keyword? Or lemma/proofs as well? I can inline `CompactSet`. Shall I mark `CompactLowerSet` as `abbrev` instead or `private`?

Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Actually I think it's still nice to keep `CompactSet` as an `abbrev` as well. It get used just once other than for `AlgebraicDCPO`. But if `abbrev`s are fine I'd keep it

Comment (b-mehta) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: I think it's more readable to write `CompactLowerSet` as `{y : α | IsCompactElement y ∧ y \leq x}`, inlined where you use it, which is basically only in `AlgebraicDCPO` and one other place. This way, when reading, one can immediately see that it's the set of compact elements below x, rather than needing to remember what "compact lower set" means.

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 18 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: This has been fixed. I have opted to not give interpretations of the definition and instead just describe it's concrete definition.
I added a section to the file documentation at the top, describing the intended interpretation, which can be removed if not appropriate.

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 17 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: I have removed the defs `CompactSet` and `CompactLowerSet`, and in general the refactors it caused brought simplification to some statements. For `AlgebraicDCPO` though, I still think `CompactLowerSet` would be nice since it's used 3 times. What do you think after seeing the new version?

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 20 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: This (along with many other docstrings) were revised. Though this docstring still refers to another lemma due to usage of the word 'basis' in the name. For context for any compact element `e`, `Ici e` is a topological basis. So I can replace the word basis in the name, with something like `Ici_compactElement`. Any opinions on this?

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 21 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Sorry, it was renamed slightly, it is now fixed.

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 22 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: I've attempted to remove the lemmas `open_eq_open_of_basis`. But I think these are indeed required since it proves a stronger result than what I get from [TopologicalSpace.IsTopologicalBasis.isOpen_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Bases.html#TopologicalSpace.IsTopologicalBasis.isOpen_iff). Namely that an open set, `u`, is equal to the supremum of the bases it contains, rather than any element in `u` can be found a basis.

The justification lies in the next PR, where these results get used. So I thought it may be better to move this part of the review to the next PR #31670. So the open_eq_open_of_basis have now been removed from this PR.

Comment (b-mehta) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Is [TopologicalSpace.IsTopologicalBasis.open_eq_sUnion'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Bases.html#TopologicalSpace.IsTopologicalBasis.open_eq_sUnion') or [TopologicalSpace.IsTopologicalBasis.open_iff_eq_sUnion](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Bases.html#TopologicalSpace.IsTopologicalBasis.open_iff_eq_sUnion) closer to what you want then? In either case, can be discussed for the next PR :)

(In general, if you can make PRs smaller, that would make them easier to review, especially for things like this!)

File: docs/references.bib [hunk 23]
```diff
@@ -4509,6 +4493,13 @@ @Book{            Quillen1967
   mrnumber      = {223432}
 }
 
+@Article{         reneta2024,
+  author        = {Reneta, Alyssa},
```
Comment (b-mehta) [inline docs/references.bib]:
```suggestion
  author        = {Renata, Alyssa},
```
I think the same typo appears elsewhere too

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 24]
```diff
@@ -0,0 +1,237 @@
...
+abbrev CompactElement (α : Type*) [PartialOrder α] := {x : α // IsCompactElement x}
+
+/-- The upwards closure of a compact element forms an open set. -/
+abbrev Subtype.toOpen (c : CompactElement α) : Opens α :=
+  ⟨Ici c, isOpen_of_basis c.val c.prop⟩
+
+/-- The upwards closure of a compact element forms an open set.
+In this version the data is implicit. -/
+abbrev IsCompactElement.toOpen {c : α} (hc : IsCompactElement c) : Opens α :=
+  (⟨c, hc⟩ : CompactElement α).toOpen
```
Comment (edwin1729) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]: This is a question as a review.
I have tried several versions of the construction `IsCompactElement.toOpen`. And I have settled on this version in the `c : α` is implicit. The reason is simply that I want to use dot notation as this function is used a lot in the rest of the file (especially next PR). But making `c : α` is implicit does lean info-view show `IsCompactElement.toOpen ...` quite often instead of just `IsCompactElement.toOpen c hc`. Is this fine?

Also the first two `abbrev`s `CompactElement` `Subtype.toOpen` can be inlined. Is this preferred?

File: docs/references.bib (hunk 23 above)
Comment (edwin1729) [reply docs/references.bib]: Fixed everywhere, thanks!

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 22 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Yes `open_eq_sUnion'` is super useful. I would still like the result to be in terms of Opens rather than Sets but I can make a wrapper around this lemma I think. Can provide further details in the next PR.

(Okay, maybe I'll try to split the next one in half)

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 24 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: I have decided that the extra abbrevs can be removed. And the  pattern of using a function in a namespace of a `Prop` is something I saw in another context in Mathlib so I assume  `IsCompactElement.toOpen` is somewhat canonical as well.

**Comment by edwin1729** [comment]
@b-mehta could you please take another look? I believe this PR is complete.

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 25]
```diff
@@ -0,0 +1,226 @@
...
+  · intro h s u hs hs' hu h_le
+    have u_eq_sSup: u = sSup s := IsLUB.unique hu (lubOfDirected s hs')
+    rw [u_eq_sSup] at h_le
+    exact h s hs hs' h_le
+
+/-- An algebraic directed complete partial order is a `CompletePartialOrder` with 1) a least
+element and 2) every element is given by the supremum of a set of compact elements (algebraic). -/
+class AlgebraicDCPO (α : Type*) extends CompletePartialOrder α, OrderBot α where
+  algebraic : ∀ x : α, ({y : α | IsCompactElement y ∧ y ≤ x}).Nonempty ∧ DirectedOn (· ≤ ·)
+    {y : α | IsCompactElement y ∧ y ≤ x} ∧ x = sSup {y : α | IsCompactElement y ∧ y ≤ x}
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Since we have a bot, the `Nonempty` is only saying something in the case of `x != bot`, and in fact in that case it just says that bot is compact.

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 26]
```diff
@@ -0,0 +1,226 @@
...
+  · intro hk s hs hs' h_le
+    exact hk s (sSup s) hs hs' (lubOfDirected s hs') h_le
+  · intro h s u hs hs' hu h_le
+    have u_eq_sSup: u = sSup s := IsLUB.unique hu (lubOfDirected s hs')
+    rw [u_eq_sSup] at h_le
+    exact h s hs hs' h_le
+
+/-- An algebraic directed complete partial order is a `CompletePartialOrder` with 1) a least
+element and 2) every element is given by the supremum of a set of compact elements (algebraic). -/
+class AlgebraicDCPO (α : Type*) extends CompletePartialOrder α, OrderBot α where
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]: CompletePartialOrder now implies OrderBot, so you don't need to add this

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 27]
```diff
@@ -0,0 +1,226 @@
...
+open Topology.IsScott TopologicalSpace Set Topology CompletePartialOrder
+section CompletePartialOrder
+
+variable {α : Type*} [TopologicalSpace α] [CompletePartialOrder α]
+  [IsScott α univ]
+
+/-- The order from `CompletePartialOrder` and the specialization order induced by the Scott
+topology, correspond. Unfortunately Mathlib's specialization order `⤳` is opposite to `≤`.
+Prop 3.5.2 in [renata2024]. Prop 2.3.2(1) in [abramsky_gabbay_maibaum_1994]. -/
+lemma specialization_iff_ge {x y : α} : x ≤ y ↔ y ⤳ x := by
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]: The statement as you've written it is "ge_iff_specialization", but I think the right fix here is to swap the statement so it's the other way round (and then the name is correct)

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 28]
```diff
@@ -0,0 +1,226 @@
...
+lemma isOpen_of_basis (e : α) (he₀ : IsCompactElement e) : IsOpen (Ici e) := by
+  rw [isOpen_iff_isUpperSet_and_dirSupInaccOn univ]
+  constructor
+  · -- u is an upper set
+    unfold IsUpperSet
+    intro x y x_le_y hx
+    simp only [Ici, mem_setOf_eq] at hx ⊢
+    transitivity x
+    · exact hx
+    · exact x_le_y
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]:
```suggestion
    grind [IsUpperSet]
```
I think some of the other proofs can be shorter like this too

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 29]
```diff
@@ -0,0 +1,226 @@
...
+    have h_specialize := not_imp_not.2 <| h_specialize u hu
+    -- we know y ∉ u as y ≤ y. And from specialization relation on y we deduce that x ∉ u
+    simp only [mem_setOf_eq, le_refl, not_true_eq_false, not_false_eq_true, not_not, forall_const,
+      u] at h_specialize
+    -- in other words x ≤ y as required
+    exact h_specialize
+
+/-- The upward closure of a compact element (`Ici e`) is an open set.
+We refer to the `Ici e` as basis due to `isTopologicalBasis_Ici_image_compactSet`. -/
+lemma isOpen_of_basis (e : α) (he₀ : IsCompactElement e) : IsOpen (Ici e) := by
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]:
```suggestion
lemma IsCompactElement.isOpen_Ici (e : α) (he₀ : IsCompactElement e) : IsOpen (Ici e) := by
```
I understand the original name, but the naming convention should still apply here

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 30]
```diff
@@ -0,0 +1,226 @@
...
+end CompletePartialOrder
+
+section AlgebraicDCPO
+variable {D : Type*} [TopologicalSpace D] [AlgebraicDCPO D] [IsScott D univ]
+open Opens
+
+/-- Given any point `x` in `D` in an open set `u`, there exists
+an upward closure of a compact element (`Ici e`), within `u` which contains `x`.
+We refer to the `Ici e` as basis due to `isTopologicalBasis_Ici_image_compactSet`. -/
+lemma exists_basis_mem_basis (x : D) (u : Set D) (x_in_u : x ∈ u) (hu : IsOpen u)
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]: as before, let's stick to `Ici` instead of `basis`

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 31]
```diff
@@ -0,0 +1,226 @@
...
+    simp only [image_univ, mem_image, mem_range, Subtype.exists, ↓existsAndEq, coe_mk,
+      true_and, exists_prop, forall_exists_index, and_imp, forall_apply_eq_imp_iff₂]
+    apply isOpen_of_basis
+  · -- If a point `x` is in an open set `u`, we can find it in a set in the basis (`Ici c`)
+    intro x u x_in_u hu
+    choose c hc x_in_c' hc' using exists_basis_mem_basis x u x_in_u hu
+    simp only [image_univ, mem_image, mem_range, Subtype.exists, ↓existsAndEq, coe_mk, true_and,
+      exists_prop, exists_exists_and_eq_and, mem_Ici]
+    use c, hc
+    exact ⟨mem_Ici.1 x_in_c', Subset.refl (LE.le (Ici c)) hc'⟩
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]:
```suggestion
theorem isTopologicalBasis_Ici_image_compactSet :
    IsTopologicalBasis {Ici c | (c : D) (_ : IsCompactElement c)} := by
  apply isTopologicalBasis_of_isOpen_of_nhds
  · grind [isOpen_of_basis]
  · grind [exists_basis_mem_basis]
```

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 25 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Yes it was redundant, and removed. `IsCompactElement_bot` is extracted as a lemma as it is used again in a later PRs

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 30 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: I really don't know what to name this lemma. I have proposed `exists_Ici_mem` (supposed to mean exists an Ici such that Ici is a mem of `u`, the input)

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 31 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: I have chosen to use `Opens.IsBasis` over IsTopologicalBasis, since its generality is required in later parts of the proofs. Particularly `IsBasis` talks about `Set (Opens D)` vs `IsTopologicalBasis` talking about `Set (Set D)`. Briefly, this by the existing definition in mathlib of `[Locale.localePointOfSpacePointof](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Order/Category/FrameAdjunction.html#Locale.localePointOfSpacePoint)` (it uses `Opens D` not `Set D`).

**Comment by edwin1729** [comment]
-awaiting-author

**Comment by b-mehta** [comment]
Please avoid force-pushing, since it makes it really hard to re-review!

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 32]
```diff
@@ -0,0 +1,216 @@
...
+variable {α : Type*} [CompletePartialOrder α]
+
+/-- An element `k` is compact in a complete partial order if and only if
+any directed set with `sSup` above `k` already got above `k` at some point in the set. -/
+theorem isCompactElement_iff_le_of_directed_sSup_le (k : α) :
+    IsCompactElement k ↔
+      ∀ s : Set α, s.Nonempty → DirectedOn (· ≤ ·) s → k ≤ sSup s → ∃ x : α, x ∈ s ∧ k ≤ x := by
+  constructor
+  · intro hk s hs hs' h_le
+    exact hk s (sSup s) hs hs' (lubOfDirected s hs') h_le
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]:
```suggestion
    exact hk s (sSup s) hs hs' hs'.isLUB_sSup h_le
```

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 33]
```diff
@@ -0,0 +1,216 @@
...
+  · intro h s u hs hs' hu h_le
+    have u_eq_sSup: u = sSup s := IsLUB.unique hu (lubOfDirected s hs')
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]:
```suggestion
    have u_eq_sSup : u = sSup s := hu.unique hs'.isLUB_sSup
```

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 34]
```diff
@@ -0,0 +1,216 @@
...
+    rw [u_eq_sSup] at h_le
+    exact h s hs hs' h_le
+
+/-- `⊥` in a `CompletePartialOrder` is compact. -/
+lemma isCompactElement_bot : IsCompactElement (⊥ : α) := by
+  rw [isCompactElement_iff_le_of_directed_sSup_le]
+  intro s ⟨e, he⟩ _ _
+  use e, he
+  exact OrderBot.bot_le e
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]:
```suggestion
  intro s _ ⟨e, he⟩ _ _ _
  exact ⟨e, he, bot_le⟩
```

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 35]
```diff
@@ -0,0 +1,216 @@
...
+  constructor
+  · intro hk s hs hs' h_le
+    exact hk s (sSup s) hs hs' (lubOfDirected s hs') h_le
+  · intro h s u hs hs' hu h_le
+    have u_eq_sSup: u = sSup s := IsLUB.unique hu (lubOfDirected s hs')
+    rw [u_eq_sSup] at h_le
+    exact h s hs hs' h_le
+
+/-- `⊥` in a `CompletePartialOrder` is compact. -/
+lemma isCompactElement_bot : IsCompactElement (⊥ : α) := by
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]: This lemma and the previous should probably go in the CompletePartialOrder file, rather than being here.

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 36]
```diff
@@ -0,0 +1,216 @@
...
+  rw [isCompactElement_iff_le_of_directed_sSup_le]
+  intro s ⟨e, he⟩ _ _
+  use e, he
+  exact OrderBot.bot_le e
+
+/-- An algebraic directed complete partial order is a `CompletePartialOrder` with 1) a least
+element and 2) every element is given by the supremum of a set of compact elements (algebraic). -/
+class AlgebraicDCPO (α : Type*) extends CompletePartialOrder α where
+  algebraic (x : α) : DirectedOn (· ≤ ·) {y : α | IsCompactElement y ∧ y ≤ x} ∧
+    x = sSup {y : α | IsCompactElement y ∧ y ≤ x}
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]: instead of having the `∧`, it would make more sense to have these as separate fields. for example:
```
  directedOn_isCompactElement_le (x : α) : DirectedOn (· ≤ ·) {y : α | IsCompactElement y ∧ y ≤ x}
  isLUB_isCompactElement_le (x : α) : IsLUB {y : α | IsCompactElement y ∧ y ≤ x} x
```

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 37]
```diff
@@ -0,0 +1,216 @@
...
+    -- Take the contrapose of x being in an open implying y must also be in it
+    have h_specialize := not_imp_not.2 <| h_specialize u hu
+    -- we know y ∉ u as y ≤ y. And from specialization relation on y we deduce that x ∉ u
+    simp only [mem_setOf_eq, le_refl, not_true_eq_false, not_false_eq_true, not_not, forall_const,
+      u] at h_specialize
+    -- in other words x ≤ y as required
+    exact h_specialize
+  · intro x_le_y u hu x_in_u
+    apply isUpperSet_of_isOpen univ at hu
+    exact hu x_le_y x_in_u
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]:
```suggestion
lemma specialization_iff_ge {x y : α} : y ⤳ x ↔ x ≤ y := by
  rw [specializes_iff_forall_closed]
  constructor
  · intro h
    simpa using h (Iic y) isClosed_Iic (by simp)
  · intro hxy s hs hys
    exact isLowerSet_of_isClosed hs hxy hys
```

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 38]
```diff
@@ -0,0 +1,216 @@
...
+    intro d _ nonempty hd  x hx hx' -- he₁
+    rw [isCompactElement_iff_le_of_directed_sSup_le] at he₀
+    -- rewrite `x`'s LUB propoerty in terms of sSup
+    have hx : x = sSup d := IsLUB.unique hx (lubOfDirected d hd)
+    have he₁ : e ≤ sSup d := by
+      rw [← hx]
+      simp only [Ici, mem_setOf_eq] at hx'
+      exact hx'
+    choose a a_in_d ha' using he₀ d nonempty hd he₁
+    exact ⟨a, a_in_d, mem_Ici.mpr ha'⟩
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]:
```suggestion
lemma IsCompactElement.isOpen_Ici (e : α) (he₀ : IsCompactElement e) : IsOpen (Ici e) := by
  rw [isOpen_iff_isUpperSet_and_dirSupInaccOn univ]
  constructor
  · grind [IsUpperSet]
  · rw [dirSupInaccOn_univ]
    intro d nonempty hd x hx hx'
    exact he₀ d x nonempty hd hx hx'
```

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 35 above)
Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Do you mean `Mathlib/Order/CompactlyGenerated/Basic.lean`? I have moved it there.

Comment (b-mehta) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Unfortunately I did mean Mathlib/Order/CompletePartialOrder; I think putting it in CompactlyGenerated/ is why there's now a large-import. But maybe putting it in CompletePartialOrder will give a large-import too. If that's the case, then you can make a new file Mathlib/Order/CompactlyGenerated/CompletePartialOrder.lean for these lemmas. Actually now that I look at it, `isCompactElement_bot` doesn't require it to be a complete partial order at all, right? That one's true just in a `PartialOrder` that satisfies `OrderBot`

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 39]
```diff
@@ -0,0 +1,146 @@
...
+  directedOn_isCompactElement_le (x : α) : DirectedOn (· ≤ ·) {y : α | IsCompactElement y ∧ y ≤ x}
+  isLUB_isCompactElement_le (x : α) : IsLUB {y : α | IsCompactElement y ∧ y ≤ x} x
+
+namespace Topology
+namespace IsScott
+open Topology.IsScott TopologicalSpace Set Topology CompletePartialOrder
+section CompletePartialOrder
+
+variable {α : Type*} [TopologicalSpace α] [CompletePartialOrder α]
+  [IsScott α univ]
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]:
```suggestion
variable {α : Type*} [TopologicalSpace α] [CompletePartialOrder α] [IsScott α univ]
```

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 40]
```diff
@@ -0,0 +1,146 @@
...
+-/
+
+@[expose] public section
+
+/-- An algebraic directed complete partial order is a `CompletePartialOrder` with 1) a least
+element and 2) every element is given by the supremum of a set of compact elements (algebraic). -/
+class AlgebraicDCPO (α : Type*) extends CompletePartialOrder α where
+  directedOn_isCompactElement_le (x : α) : DirectedOn (· ≤ ·) {y : α | IsCompactElement y ∧ y ≤ x}
+  isLUB_isCompactElement_le (x : α) : IsLUB {y : α | IsCompactElement y ∧ y ≤ x} x
+
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean:72]: If you add
```
export AlgebraicDCPO (directedOn_isCompactElement_le isLUB_isCompactElement_le)
```
here, then you can write `directedOn_isCompactElement_le` below instead of `AlgebraicDCPO.directedOn_isCompactElement_le`.

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 31 above)
Comment (b-mehta) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: What I'd really like is to avoid needing the `abbrev`s above though - `abbrev`s are fine for a small project, but these ones aren't really adding much to mathlib. 
Let me also note that your proof starts off by applying `isTopologicalBasis_of_isOpen_of_nhds`, which is about `IsTopologicalBasis` (ie `IsTopologicalBasis` is actually more general, which is why it applies to `IsBasis`). It's also easy to convert a `Set (Set D)` into `Set (Opens D)` using Set.preimage (and its notation)

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean [hunk 41]
```diff
@@ -0,0 +1,146 @@
...
+end CompletePartialOrder
+
+section AlgebraicDCPO
+variable {D : Type*} [TopologicalSpace D] [AlgebraicDCPO D] [IsScott D univ]
+open Opens
+
+/-- Given any point `x` in `D` in an open set `u`, there exists
+an upward closure of a compact element (`Ici e`), within `u` which contains `x`. -/
+lemma exists_Ici_isCompactElement_Ici_mem (x : D) (u : Set D) (x_in_u : x ∈ u) (hu : IsOpen u)
+    : ∃ c, IsCompactElement c ∧ x ∈ Ici c ∧ Ici c ⊆ u := by
```
Comment (b-mehta) [inline Mathlib/Topology/Order/ScottTopologyDCPO.lean]: I think it's nice to first prove
```
lemma DirSupInacc.exists_le_isCompactElement
    (x : D) (u : Set D) (x_in_u : x ∈ u) (hu : DirSupInacc u) :
    ∃ c ≤ x, IsCompactElement c ∧ c ∈ u := by
```
which doesn't require that D has the scott topology (only that it's an algebraic dcpo), and then this theorem is a nice combination of scott + algebraic

Comment (b-mehta) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]:
```
lemma DirSupInacc.exists_le_isCompactElement
    (x : D) (u : Set D) (x_in_u : x ∈ u) (hu : DirSupInacc u) :
    ∃ c ≤ x, IsCompactElement c ∧ c ∈ u := by
  have := hu ⟨⊥, by simp⟩ (directedOn_isCompactElement_le x) (isLUB_isCompactElement_le x) x_in_u
  simp [inter_nonempty] at this
  grind
```
(which will require you to make `isCompactElement_bot` a simp lemma)

**Comment by edwin1729** [comment]
-large-import

File: Mathlib/Topology/Order/ScottTopologyDCPO.lean (hunk 35 above)
Comment (b-mehta) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Ouch, looks like it does give a large-import too. So the new file is a good idea, but note that `isCompactElement_bot` should still go in CompactlyGenerated/ because it doesn't need to know about CompletePartialOrder

Comment (edwin1729) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Well I just noticed that `isCompactElement_iff_le_of_directed_sSup_le` is never used, since it has been swept under grind presumably now. So the new file for this is no longer required?

Comment (b-mehta) [reply Mathlib/Topology/Order/ScottTopologyDCPO.lean]: Oh good point, maybe we can just drop the lemma?
